US20010011086A1
Preparation of 4-Hydroxy-Fluorene
A partial solution of 196.2 mg (1 mmol) of 4-hydroxy-fluoren-9-one in 2 mL EtOAc and 3 mL EtOH with 40 mg 10% Pd/C was stirred under a balloon of hydrogen for 27.5 hours. The catalyst was removed by filtration through celite, washed well with EtOAc, and the filtrate evaporated. The residue was purified by plate layer chromatography with CH2Cl2-EtOAc (50:1) to give 102.7 mg of the title substance.

reactant | 4-hydroxy-fluoren-9-one | 1 mmol, 196.2 mg | OC1=CC=CC=2C(C3=CC=CC=C3C12)=O | C13H8O2
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 3 mL | CCO | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 4-Hydroxy-Fluorene | OC1=CC=CC=2CC3=CC=CC=C3C12 | C13H10O
